US06376499B1
Step C: 3-Amino-6-aminomethyl-1,2-benzisoxazole
Borane methylsulfide complex (2 M in THF, 1.98 mL) was added to a stirred refluxing solution of 3-amino-6-cyano-1,2-benzisoxazole (210 mg, 1.32 mmol) in DME (10 mL). After 45 min excess methyl sulfide was evaporated and the reaction mixture was cooled and quenched with 1M HCl solution (10 mL). The mixture was stirred for 30 min and then was neutralised with sodium bicarbonate solution and concentrated to dryness. The residue was triturated with 5% methanol/chloroform, filtered and the filtrate evaporated in vacuo. The residue was purified by chromatography on silica (5% methanol, chloroform/ammonia) to give the title compound as a yellow solid:

reactant | Borane methylsulfide | 2 M, 1.98 mL | CSC.B
reactant | 3-amino-6-cyano-1,2-benzisoxazole | 1.32 mmol, 210 mg | NC1=NOC2=C1C=CC(=C2)C#N | C8H5N3O
solvent | DME | 10 mL | COCCOC | C4H10O2
product | 3-Amino-6-aminomethyl-1,2-benzisoxazole | NC1=NOC2=C1C=CC(=C2)CN | C8H9N3O
